US04101546
3,5,6-Trichloro-2-(thiocyanatomethylthio)pyrazine
To a solution of 4.0 grams (0.015 mole) of 3,5,6-trichloro-2-(chloromethylthio)pyrazine in 75 milliliters of dimethylformamide was added 1.6 grams (0.02 mole) of sodium thiocyanate. The reaction mixture was heated to 75° C and monitored by nuclear magnetic resonance spectroscopy. An additional 4.8 grams (0.06 mole) of sodium thiocyanate was incrementally added until the reaction was complete (5 days). The solvent was removed by evaporation under reduced pressure and the residue remaining was dissolved in a mixture of water and chloroform. Two phases formed and the aqueous phase was extracted with chloroform. The organic fractions were combined and washed with a saturated sodium bicarbonate solution followed by washing with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation and the crude 3,5,6-trichloro-2-(thiocyanatomethylthio)pyrazine product was purified by elution with chloroform from a silica gel column. The product was recovered in a yield of 0.32 grams (7.5 percent of theoretical) and melted at 90°-93° C. Upon analysis, the product was found to have carbon, hydrogen, nitrogen and sulfur contents of 25.60, 1.01, 14.29 and 22.60 percent, respectively, as compared with the theoretical contents of 25.13, 0.70, 14.66 and 22.34 percent, respectively, calculated for the above-named structure.

reactant | 3,5,6-trichloro-2-(chloromethylthio)pyrazine | 0.015 mole, 4.0 grams | ClC=1C(=NC(=C(N1)Cl)Cl)SCCl | C5H2Cl4N2S
reactant | sodium thiocyanate | 0.02 mole, 1.6 grams | [S-]C#N.[Na+]
reactant | sodium thiocyanate | 0.06 mole, 4.8 grams | [S-]C#N.[Na+]
solvent | dimethylformamide | 75 milliliters | CN(C=O)C | C3H7NO
product | 3,5,6-Trichloro-2-(thiocyanatomethylthio)pyrazine | ClC=1C(=NC(=C(N1)Cl)Cl)SCSC#N | C6H2Cl3N3S2
